US07045551B2
Step C: [1-(3-Bromo-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester
To a solution of 2-amino-2-(3-bromo-phenyl)-ethanol (110 mg, 0.51 mmol) in CH2Cl2 (10 mL) were added Et3N (71 μL, 0.51 mmol), di-tert-butyl dicarbonate (111 mg, 0.51 mmol), and the reaction mixture was stirred at room temperature for 3 h. The reaction mixture was washed with saturated NH4Cl (20 mL), and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo to provide the title compound as a white solid.

reactant | 2-amino-2-(3-bromo-phenyl)-ethanol | 0.51 mmol, 110 mg | NC(CO)C1=CC(=CC=C1)Br | C8H10BrNO
reactant | Et3N | 0.51 mmol, 71 μL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.51 mmol, 111 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | [1-(3-Bromo-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CO)C1=CC(=CC=C1)Br)=O | C13H18BrNO3
